US05872118
h) Preparation of (E)-2-(3-ethyl-6-fluoro-1-indanylidene)acetyl chloride
This compound was prepared in an analogous manner to Example 18h with replacement of (E)-2-(6-fluoro-3-methyl- 1 -indanylidene)acetic acid with (E)-2-(3-ethyl-6-fluoro-1-indanylidene)acetic acid (5.7 g. 25.88 mmol). The product residue was dissolved in dichloromethane and used without purification in Example 26.

reactant | (E)-2-(3-ethyl-6-fluoro-1-indanylidene)acetic acid | 25.88 mmol, 5.7 g | C(C)C1C/C(/C2=CC(=CC=C12)F)=C\C(=O)O | C13H13FO2
reactant | dichloromethane | ClCCl | CH2Cl2
product | (E)-2-(3-ethyl-6-fluoro-1-indanylidene)acetyl chloride | C(C)C1C/C(/C2=CC(=CC=C12)F)=C\C(=O)Cl | C13H12ClFO
